US04716157
A 10 g portion of 3,4-diazido-2,3,4-trideoxy-D-erythro-pentitol, dibenzeate was dissolved in 35 ml of ethanol, a 1.8 g portion of platinum dioxide added and the mixture reduced in a Parr shaker overnight. The catalyst was removed by filtration and the filtrate evaporated to dryness, giving 4.36 g of 3,4-diamino-2,3,4-trideoxy-D-erythro-pentitol, 1,5-dibenzerate.

reactant | 3,4-diazido-2,3,4-trideoxy-D-erythro-pentitol | N(=[N+]=[N-])[C@@H](CCO)[C@@H](CO)N=[N+]=[N-] | C5H10N6O2
solvent | ethanol | 35 ml | C(C)O | C2H6O
catalyst | platinum dioxide | [Pt](=O)=O
product | 3,4-diamino-2,3,4-trideoxy-D-erythro-pentitol | 4.36 g | N[C@@H](CCO)[C@@H](CO)N | C5H14N2O2
